US07507740B2
(iv) Production of N-{3-[4-({3-chloro-4-[3-(trifluoromethoxy)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]propyl}-2-(methylsulfonyl)acetamide hydrochloride
N-{3-[4-({3-Chloro-4-[3-(trifluoromethoxy)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]propyl}-2-(methylsulfonyl)acetamide was obtained by the reaction in the same manner as in Example 155 (iv) using 5-(3-aminopropyl)-N-{3-chloro-4-[3-(trifluoromethoxy)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride (170 mg), 2-(methylsulfonyl)acetic acid (85.0 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (177 mg), 1-hydroxybenzotriazole monohydrate (141 mg), triethylamine (0.43 mL) and N,N-dimethylformamide (5.0 mL). To a solution of N-{3-[4-({3-chloro-4-[3-(trifluoromethoxy)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]propyl}-2-(methylsulfonyl)acetamide in ethyl acetate (1.0 mL) was added 4N hydrochloric acid-ethyl acetate (0.50 mL) at room temperature, and the mixture was stirred at room temperature for 1 hr. After concentration under reduced pressure, diisopropyl ether was added, and the precipitated crystals were collected by filtration. The crystals were washed with diisopropyl ether to give the title compound (128 mg) as colorless powder crystals.

reactant | N-{3-[4-({3-Chloro-4-[3-(trifluoromethoxy)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]propyl}-2-(methylsulfonyl)acetamide | ClC=1C=C(C=CC1OC1=CC(=CC=C1)OC(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCCNC(CS(=O)(=O)C)=O | C25H23ClF3N5O5S
reactant | 5-(3-aminopropyl)-N-{3-chloro-4-[3-(trifluoromethoxy)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride | 170 mg | Cl.Cl.NCCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)OC(F)(F)F)Cl
reactant | 2-(methylsulfonyl)acetic acid | 85.0 mg | CS(=O)(=O)CC(=O)O | C3H6O4S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 177 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 141 mg | O.ON1N=NC2=C1C=CC=C2
reactant | hydrochloric acid ethyl acetate | 4N, 0.50 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 1.0 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.43 mL | C(C)N(CC)CC | C6H15N
product | N-{3-[4-({3-chloro-4-[3-(trifluoromethoxy)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]propyl}-2-(methylsulfonyl)acetamide hydrochloride | 128 mg | Cl.ClC=1C=C(C=CC1OC1=CC(=CC=C1)OC(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCCNC(CS(=O)(=O)C)=O | InChI=1S/C25H23ClF3N5O5S.ClH/c1-40(36,37)14-22(35)30-9-3-10-34-11-8-20-23(34)24(32-15-31-20)33-16-6-7-21(19(26)12-16)38-17-4-2-5-18(13-17)39-25(27,28)29;/h2,4-8,11-13,15H,3,9-10,14H2,1H3,(H,30,35)(H,31,32,33);1H
